US06017919
4-Methoxy-3-pentyloxycinnamic acid (500 mg, 2.62 mmol, 1 eq) and 1-hydroxybenzotriazole hydrate (371 mg, 2.75 mmol, 1.05 eq) were dissolved in DMF (5 ml), and to this solution were successively added morpholine (684 mg, 7.85 mmol, 3.0 eq) and WSC hydrochloride (526 mg, 2.75 mmol, 1.05 eq) under ice-cooling. The mixture was stirred at room temperature for 12 hours. Ice water (5 ml) and a saturated aqueous sodium hydrogencarbonate solution (5 ml) were successively added to this reaction mixture. The mixture was exracted twice with ethyl acetate (20 ml). The organic layers were combined, washed with saturated brine (40 ml) and dried over anhydrous sodium sulfate. The drying agent was filtered off, and the filtrate was concentrated under reduced pressure. The obtained residue was purified by column chromatography on silica gel (n-hexane/ethyl acetate=1/2) to give (E)-3-(3-pentyloxy-4-methoxyphenyl)-1-morpholin-4-yl-prop-2-en-1-one (343 mg, 49.8%) as a colorless solid.

reactant | 4-Methoxy-3-pentyloxycinnamic acid | 2.62 mmol, 500 mg, 1 eq | COC1=C(C=C(C=CC(=O)O)C=C1)OCCCCC | C15H20O4
reactant | 1-hydroxybenzotriazole hydrate | 2.75 mmol, 371 mg, 1.05 eq | O.ON1N=NC2=C1C=CC=C2
reactant | morpholine | 7.85 mmol, 684 mg, 3.0 eq | N1CCOCC1 | C4H9NO
reactant | WSC hydrochloride | 2.75 mmol, 526 mg, 1.05 eq | CCN=C=NCCCN(C)C.Cl
reactant | sodium hydrogencarbonate | 5 ml | C(O)([O-])=O.[Na+]
solvent | DMF | 5 ml | CN(C)C=O | C3H7NO
solvent | ethyl acetate | 20 ml | C(C)(=O)OCC | C4H8O2
product | (E)-3-(3-pentyloxy-4-methoxyphenyl)-1-morpholin-4-yl-prop-2-en-1-one | 343 mg, 49.8% | C(CCCC)OC=1C=C(C=CC1OC)/C=C/C(=O)N1CCOCC1 | C19H27NO4
